US05001140
A mixture of 2.5 g (10 mmol) of (E)-3-[2-[4-(cyclopropyl)-2-thiazolyl]ethenyl]benzeneamine prepared as in example 1 as above, 1.5 g (15 mol) of succinic anhydride, 1.64 g (20 mmol) of anhydrous sodium acetate and 200 ml of 1,2-dimethoxyethane was stirred and heated under reflux for 2 hr. The reaction mixture was cooled and concentrated in vacuo. The residue was heated on the steam bath with 200 ml of water for 0.5 hr. The solid was collected and recrystallized from ethanol to give 1.4 g of (E)-4-[[3-[2-(4-cyclopropyl-2-thiazolyl)-ethenyl]phenyl]amino]-4-oxobutanoic acid, mp 177°-179° dec, as off-white needles.

reactant | (E)-3-[2-[4-(cyclopropyl)-2-thiazolyl]ethenyl]benzeneamine | 10 mmol, 2.5 g | C1(CC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C14H14N2S
reactant | succinic anhydride | 15 mol, 1.5 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | sodium acetate | 20 mmol, 1.64 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
product | (E)-4-[[3-[2-(4-cyclopropyl-2-thiazolyl)-ethenyl]phenyl]amino]-4-oxobutanoic acid | 1.4 g | C1(CC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CCC(=O)O)=O | C18H18N2O3S
